US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-2,4-dimethylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione monohydrochloride
To a suspension of 4.5 g (0.017 mole) of 2-(2-chloroethyl)-2,3-dihydro-2,4-dimethylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione in 20 ml of methanol, cooled in an ice bath, was added 40 ml of dimethylamine. The flask was sealed tightly and left standing at room temperature for 10 days. The dimethylamine and methanol were removed by rotary evaporation (60° C.; 30 mm). The residue was taken up in 150 ml of chloroform, washed with 3×50 ml dil sodium hydroxide, dried over anhydrous sodium sulfate, filtered and concentrated by rotary evaporation (70° C.; 30 mm). The crude oil was dissolved in isopropyl alcohol and treated with ethereal hydrogen chloride, which yielded 4.0 g (76%) of yellow crystals, m.p. 255° C. with decomposition.

reactant | 2-(2-chloroethyl)-2,3-dihydro-2,4-dimethylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | 0.017 mole, 4.5 g | ClCCC1(OC2=C(C(N(C1)C)=S)C=CC=N2)C | C12H15ClN2OS
reactant | dimethylamine | 40 ml | CNC | C2H7N
solvent | methanol | 20 ml | CO | CH4O
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-2,4-dimethylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione monohydrochloride | 4.0 g, 76% | Cl.CN(CCC1(OC2=C(C(N(C1)C)=S)C=CC=N2)C)C | InChI=1S/C14H21N3OS.ClH/c1-14(7-9-16(2)3)10-17(4)13(19)11-6-5-8-15-12(11)18-14;/h5-6,8H,7,9-10H2,1-4H3;1H
